US07317125B2
Preparation of 3-methyl-furan-2-carboxylic acid N′-isopropyl-hydrazide
A solution of methyl-3-methyl-2-furoate (250 mg, 1.78 mmol) and hydrazine monohydrate (1.8 ml, 34.68 mmol) in MeOH (3 ml) was heated to 120° C. for 20 minutes in a microwave oven. The mixture was concentrated to dryness and the residue was triturated with hexanes. The resulting hydrazide 1 was collected by suction filtration and air dried (242 mg). This material was dissolved in acetone (3 ml) and stirred at rt overnight. The solution was concentrated to dryness. The residue was dissolved in TFA (3 ml) and treated with triethylsilane (0.58 ml, 3.6 mmol) at rt overnight. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between saturated sodium bicarbonate and DCM. The organic layer was dried over sodium sulfate and concentrated under vacuum to afford the product as oil (268 mg, 82%).

reactant | methyl-3-methyl-2-furoate | 1.78 mmol, 250 mg | COC(=O)C=1OC=CC1C | C7H8O3
reactant | hydrazine monohydrate | 34.68 mmol, 1.8 ml | O.NN
reactant | triethylsilane | 3.6 mmol, 0.58 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | MeOH | 3 ml | CO | CH4O
product | 3-methyl-furan-2-carboxylic acid N′-isopropyl-hydrazide | 268 mg, 82% | C(C)(C)NNC(=O)C=1OC=CC1C | C9H14N2O2
